US04178293
To 20 ml DMF is added valine (1.17 g, 10 mmol) and potassium carbonate (5.5 g, 40 mmol) followed by α,α-dibromo-o-xylene (2.63 g, 10 mmol). The reaction mixture is stirred for about 20 hours at RT under nitrogen and then poured into ether and water. The aqueous layer is separated, acidified to about pH 3 with aqueous HCl and extracted thoroughly with ether. The organic layer is washed with water and brine, dried and solvent removed under vacuum to give 2-(2-isoindolinyl)-3-methylbutanoic acid.

reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | valine | 10 mmol, 1.17 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | α,α-dibromo-o-xylene | 10 mmol, 2.63 g | BrC(C=1C(=CC=CC1)C)Br | C8H8Br2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(2-isoindolinyl)-3-methylbutanoic acid | C1N(CC2=CC=CC=C12)C(C(=O)O)C(C)C | C13H17NO2
